US06080790
5-(3-Cyclopentyloxy-4-methoxyphenyl)pyrimidine-N-oxide
A solution of 5-(3-Cyclopentyloxy-4-methoxyphenyl)pyrimidine (1.37 g) and 3-chloroperoxybenzoic acid (50.60%) (1.75 g) in dichloromethane (35 ml) was stirred at RT and the reaction followed by t.l.c. After 5 days, the reaction mixture was partitioned three times between dichloromethane (50 ml) and 10% aqueous Na2SO3 solution (50 ml).

reactant | 5-(3-Cyclopentyloxy-4-methoxyphenyl)pyrimidine | 1.37 g | C1(CCCC1)OC=1C=C(C=CC1OC)C=1C=NC=NC1 | C16H18N2O2
reactant | 3-chloroperoxybenzoic acid | 1.75 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | dichloromethane | 35 ml | ClCCl | CH2Cl2
product | 5-(3-Cyclopentyloxy-4-methoxyphenyl)pyrimidine-N-oxide | C1(CCCC1)OC=1C=C(C=CC1OC)C=1C=NC=[N+](C1)[O-] | C16H18N2O3
